US06265349B1
Preparation of 3-(4-chloro-5-chlorosulfonyl-2-fluorophenyl)-1-methyl-6-trifluoromethyl-2(1H)-pyridone (Compound No. 1-84)
2.9 g (9.5 mmol) of 3-(4-chloro-2-fluorophenyl)-1-methyl-6-trifluoromethyl-2(1H)-pyridone was dissolved in 70 g of chlorosulfonic acid, followed by heating and stirring at 100° C. for 5 hours. After cooling, the mixture was gradually dropwise added to ice water, followed by extraction with ethyl acetate. After washing with water and a saturated sodium hydrogencarbonate aqueous solution, the organic layer was dried over anhydrous magnesium sulfate. Ethyl acetate was distilled off under reduced pressure. Then, the obtained crude crystals were washed with n-hexane to obtain 3.3 g (yield: 86%) of the desired product. Melting point: 77-78° C.

reactant | 3-(4-chloro-2-fluorophenyl)-1-methyl-6-trifluoromethyl-2(1H)-pyridone | 9.5 mmol, 2.9 g | ClC1=CC(=C(C=C1)C=1C(N(C(=CC1)C(F)(F)F)C)=O)F | C13H8ClF4NO
reactant | chlorosulfonic acid | 70 g | ClS(=O)(=O)O | ClHO3S
product | 3-(4-chloro-5-chlorosulfonyl-2-fluorophenyl)-1-methyl-6-trifluoromethyl-2(1H)-pyridone | 3.3 g, yield: 86% | ClC1=CC(=C(C=C1S(=O)(=O)Cl)C=1C(N(C(=CC1)C(F)(F)F)C)=O)F | C13H7Cl2F4NO3S
